US03979396
2.8 g (.006 moles) of 4-azidocarbonyl-3-(N-carbethoxyacetamido)-2,5-dihydro-2-thiophenevaleric acid piperidide was dissolved in 50 ml. of methanol and brought slowly up to reflux over a 15 minute period. The reaction was allowed to proceed for 5 hrs. at this temperature. Formed as an intermediate in the reaction mixture was 3-(N-carbethoxyacetamido)-4-isocyanato-2,5-dihydro-2-thiophenevaleric acid piperidide. The methanol was then removed, and 2.33 g. (0.0056 mole, 85%) of 3-(N-carbethoxyacetamido)-4-carbomethoxyamino-2,5-dihydro-2-thiophenevaleric acid piperidide was obtained as a colorless oil.

reactant | 4-azidocarbonyl-3-(N-carbethoxyacetamido)-2,5-dihydro-2-thiophenevaleric acid piperidide | .006 moles, 2.8 g | N(=[N+]=[N-])C(=O)C1=C(C(SC1)CCCCC(=O)N1CCCCC1)N(C(C)=O)C(=O)OCC | C20H29N5O5S
reactant | 3-(N-carbethoxyacetamido)-4-isocyanato-2,5-dihydro-2-thiophenevaleric acid piperidide | C(=O)(OCC)N(C(C)=O)C=1C(SCC1N=C=O)CCCCC(=O)N1CCCCC1 | C20H29N3O5S
solvent | methanol | CO | CH4O
product | 3-(N-carbethoxyacetamido)-4-carbomethoxyamino-2,5-dihydro-2-thiophenevaleric acid piperidide | 0.0056 mole, 85% | C(=O)(OCC)N(C(C)=O)C=1C(SCC1NC(=O)OC)CCCCC(=O)N1CCCCC1 | C21H33N3O6S
